US07964623B2
t-Butyl (2-phenylethyl)(7R*,8S*)-[7-hydroxy-4,6,6-trimethyl-3-oxo-2,3,4,6,7,8-hexahydro-1,5-dioxa-4-aza-anthracene-8-yl]carbamate
To a solution of t-butyl (2-phenylethyl)(7R*,8S*)-[7-hydroxy-6,6-dimethyl-3-oxo-2,3,4,6,7,8-hexahydro-1,5-dioxa-4-aza-anthracene-8-yl]carbamate (106 mg, 0.23 mmol) in dimethylformamide (2 mL), potassium carbonate (79 mg, 0.57 mmol) and methyl iodide (28 δL, 0.46 mmol) were added at room temperature, and the resulting mixture was stirred at room temperature for 4 hours. Upon the completion of the reaction, saturated ammonium chloride aqueous solution was added thereto, the resulting solution was extracted with ethyl acetate, washed with saturated sodium chloride solution, dried over magnesium sulfate, and concentrated. The resulting mixture was purified by silica gel column (hexane/ethyl acetate=2/1) and the aimed product was obtained (yield: 100%).

reactant | t-butyl (2-phenylethyl)(7R*,8S*)-[7-hydroxy-6,6-dimethyl-3-oxo-2,3,4,6,7,8-hexahydro-1,5-dioxa-4-aza-anthracene-8-yl]carbamate | 0.23 mmol, 106 mg | C1(=CC=CC=C1)CCN(C(OC(C)(C)C)=O)[C@@H]1[C@H](C(OC=2C=C3NC(COC3=CC12)=O)(C)C)O | C26H32N2O6
reactant | potassium carbonate | 0.57 mmol, 79 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.46 mmol | CI | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | t-Butyl (2-phenylethyl)(7R*,8S*)-[7-hydroxy-4,6,6-trimethyl-3-oxo-2,3,4,6,7,8-hexahydro-1,5-dioxa-4-aza-anthracene-8-yl]carbamate | yield: 100% | C1(=CC=CC=C1)CCN(C(OC(C)(C)C)=O)[C@@H]1[C@H](C(OC=2C=C3N(C(COC3=CC12)=O)C)(C)C)O | C27H34N2O6
